### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph): Add `SimpleGraph.Preconnected.support_eq_univ`

### PR DESCRIPTION
**Pull request by IvanRenison**
Co-authored-by: Kyle Miller kmill31415@gmail.com

---
Suggested in [zulip](https://leanprover.zulipchat.com/#narrow/channel/252551-graph-theory/topic/Way.20ConnectedComponent.20definition.20uses.20Quot.3F)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Path.lean [hunk 1]
```diff
@@ -860,6 +860,16 @@ theorem Iso.preconnected_iff {G : SimpleGraph V} {H : SimpleGraph V'} (e : G ≃
   ⟨Preconnected.map e.toHom e.toEquiv.surjective,
     Preconnected.map e.symm.toHom e.symm.toEquiv.surjective⟩
 
+lemma Preconnected.support_eq_univ {V : Type*} [Nontrivial V] {G : SimpleGraph V}
+    (h : G.Preconnected) : G.support = Set.univ := by
```
Comment (urkud) [inline Mathlib/Combinatorics/SimpleGraph/Path.lean:864]: Please also add
- `u ≠ v → ∀ p : G.Walk u v, ∀ x ∈ p.support, x ∈ G.support`
- `u ≠ v → G.Reachable u v → u ∈ G.support`

File: Mathlib/Combinatorics/SimpleGraph/Path.lean [hunk 2]
```diff
@@ -929,6 +929,47 @@ theorem Iso.preconnected_iff {G : SimpleGraph V} {H : SimpleGraph V'} (e : G ≃
...
+  simp only [Set.eq_univ_iff_forall]
+  intro v
+  obtain ⟨w, hw⟩ := exists_ne v
+  obtain ⟨p⟩ := h v w
+  cases p with
+  | nil => contradiction
+  | @cons _ w => use w
+
+lemma adj_of_in_walk_support {G : SimpleGraph V} {u v : V} (p : G.Walk u v) (hp : ¬p.Nil) {x : V}
```
Comment (urkud) [inline Mathlib/Combinatorics/SimpleGraph/Path.lean:942]: Please use `mem`, not `in` for membership.

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 3]
```diff
@@ -524,6 +524,9 @@ theorem support_nonempty {u v : V} (p : G.Walk u v) : { w | w ∈ p.support }.No
 theorem mem_support_iff {u v w : V} (p : G.Walk u v) :
     w ∈ p.support ↔ w = u ∨ w ∈ p.support.tail := by cases p <;> simp
 
+lemma mem_support_iff' {G : SimpleGraph V} {u v w x : V} (huv : G.Adj u v) (p : G.Walk v w) :
+    x ∈ (Walk.cons huv p).support ↔ x = u ∨ x ∈ p.support := by cases p <;> simp
+
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:529]: It's not clear to me that this lemma needs to exist, since it's just a combination of `support_cons` and `List.mem_cons`. (More generally, if we added every lemma which is the combination of two others, the library would be way bigger for very little gain!)

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors merge
